US06605623B1
Part E. Preparation of N-[3-[(3S)-3-((4-Fluorophenyl)methyl]piperidinyl]propyl]-N′-[4-(1-methyl-1H-tetrazol-5-yl)phenyl]-urea
To a stirring solution of 25 mg 3-[(3S)-3-[(4-fluorophenyl)methyl]piperidinyl]propylamine (0.1 mmol, 1 eq) in 1 ml of dry acetonitrile was added 32.5 mg [4-(1-methyl-1H-tetrazol-5-yl)-phenyl]-carbamic acid phenyl ester (0.1 mmol, 1.1 eq). This mixture was stirred at room temperature for two hours, then concentrated in-vacuo to a pale yellow oil. This oil was purified via radial chromatography, eluting with a 19:1 mixture of methylene chloride and methanol, to yield a white solid. This solid was dissolved in methylene chloride and treated with 1 M hydrochloric acid in diethyl ether (0.1 ml, 1 eq). This mixture was stirred for 30 minutes, then concentrated in-vacuo to a white solid. This solid was dissolved in a 1:1 mixture of acetonitrile and water, and lyophilized to 26 mg of a white solid as product. NMR (300 MHz, CD3OD) δ 7.72 (d, 2H, J=9 Hz), 7.64 (d, 2H, J=9 Hz), 7.21-7.16 (m, 2H), 7.01 (dd, 2 H, J=8, 17 Hz), 4.17 (s, 3H), 3.59-3.54 (m, 1H), 3.40-3.11 (m, 4H), 2.89-2.81 (m, 1H), 2.73-2.59 (m, 3H), 2.10-1.70 (m, 7H), 1.43-1.34 (m, 1H). MS (ESI+) 452 (M−Cl).

reactant | 3-[(3S)-3-[(4-fluorophenyl)methyl]piperidinyl]propylamine | 0.1 mmol, 25 mg, 1 eq | FC1=CC=C(C=C1)C[C@H]1CN(CCC1)CCCN | C15H23FN2
reactant | [4-(1-methyl-1H-tetrazol-5-yl)-phenyl]-carbamic acid phenyl ester | 0.1 mmol, 32.5 mg, 1.1 eq | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)C1=NN=NN1C)=O | C15H13N5O2
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | diethyl ether | 0.1 ml, 1 eq | C(C)OCC | C4H10O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3-[(3S)-3-((4-Fluorophenyl)methyl]piperidinyl]propyl]-N′-[4-(1-methyl-1H-tetrazol-5-yl)phenyl]-urea | FC1=CC=C(C=C1)C[C@H]1CN(CCC1)CCCNC(=O)NC1=CC=C(C=C1)C1=NN=NN1C | C24H30FN7O
